US08026234B2
Compound 39: (R)-4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methylpyrrolidin-3-yl)benzamide
The title compound was synthesized from 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and 1-methyl-3-(R)-amino pyrrolidine dihydrochloride. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.15-1.90 (m, 12H) 2.18 (m, 1H) 2.26 (s, 3H) 2.32-2.56 (m, 2H) 2.60-2.68 (m, 2H) 3.34 (s, 3H) 3.95 (s, 3H) 4.07 (t, J=13.52 Hz, 2H) 4.34-4.54 (m, 2H) 7.51 (d, J=8.0 Hz, 1H), 7.54 (br. s., 1H) 7.90 (s, 1H), 8.21 (s, 1H) 8.27 (d, J=8.0 Hz, 1H) 8.40 (br. s., 1H). Melting point: 98-99° C. [M+H] calculated for C27H35F2N7O3, 544. found 544.

reactant | 4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C22H25F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-methyl-3-(R)-amino pyrrolidine dihydrochloride | Cl.Cl.CN1C[C@@H](CC1)N
product | (R)-4-(9-cyclohexyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methylpyrrolidin-3-yl)benzamide | C1(CCCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)N[C@H]1CN(CC1)C)C=C2)OC | C27H35F2N7O3
